US08304419B2
Step A: 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(cyclopropylmethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide
To a mixture of 30% aqueous KOH (11 mL) and diethyl ether (11 mL) was added N-methyl-N-nitrosourea (0.097 g, 0.938 mmol) in one portion with stirring and cooling at 0° C. and the reaction mixture was maintained at this temperature for 20 min. The organic phase was isolated, dried over KOH pellets and added dropwise to a solution of 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(2-propen-1-yl)phenyl]oxy}-2-fluorophenyl)methyl]-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (0.054 g, 0.094 mmol) and palladium(II) acetate (2.106 mg, 9.38 μmol) in diethyl ether (11.00 mL) with stirring and cooling at 0° C. The reaction mixture was stirred at 0° C. for 1 h and then allowed to warm to room temperature and stirred overnight at which time LC-MS indicated complete conversion to desired product.

reactant | KOH | 11 mL | [OH-].[K+]
reactant | N-methyl-N-nitrosourea | 0.938 mmol, 0.097 g | CN(C(=O)N)N=O | C2H5N3O2
reactant | 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(2-propen-1-yl)phenyl]oxy}-2-fluorophenyl)methyl]-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.094 mmol, 0.054 g | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)CC=C)C#N)F)COCC[Si](C)(C)C | C27H29Cl2FN4O3Si
solvent | diethyl ether | 11.00 mL | C(C)OCC | C4H10O
catalyst | palladium(II) acetate | 9.38 μmol, 2.106 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | diethyl ether | 11 mL | C(C)OCC | C4H10O
product | 4-chloro-N-[(4-chloro-3-{[3-cyano-5-(cyclopropylmethyl)phenyl]oxy}-2-fluorophenyl)methyl]-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | ClC=1N=CN(C1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)CC1CC1)C#N)F)COCC[Si](C)(C)C | C28H31Cl2FN4O3Si
